US07309699B2
benzyl 4-[5-(1-azabicyclo[2.2.2]oct-3-yloxy)pyrazin-2-yl]phenylcarbamate
3-Quinuclidinol (Aldrich, 610 mg, 4.8 mmol) was treated with benzyl 4-(5-hydroxypyrazin-2-yl)phenylcarbamate (Ref. EP146282, 1.28 g, 4 mmol) according to the procedure of Example 5A. The title product was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3H2O, 90:10:1, Rf. 0.30) as solid (0.68 g, yield, 40%). 1H NMR (MeOH-d4, 300 MHz) δ 1.47-1.62 (m, 1H), 1.65-1.92 (m, 2H), 1.97-2.14 (m, 1H), 2.22-2.28 (m, 1H), 2.74-3.05 (m, 5H), 3.33-3.46 (m, 1H), 5.10-5.18 (m, 1H), 5.20 (s, 2H), 7.30-7.46 (m, 5H), 7.56 (d, J=8.8 Hz, 2H), 7.88 (d, J=8.8 Hz, 2H), 8.24 (d, J=1.4 Hz, 1H), 8.55 (d, J=1.4 Hz, 1H) ppm. MS (DCl/NH3) m/z 431 (M+H)+.

reactant | 3-Quinuclidinol | 4.8 mmol, 610 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | benzyl 4-(5-hydroxypyrazin-2-yl)phenylcarbamate | 4 mmol, 1.28 g | OC=1N=CC(=NC1)C1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C18H15N3O3
product | benzyl 4-[5-(1-azabicyclo[2.2.2]oct-3-yloxy)pyrazin-2-yl]phenylcarbamate | N12CC(C(CC1)CC2)OC=2N=CC(=NC2)C2=CC=C(C=C2)NC(OCC2=CC=CC=C2)=O | C25H26N4O3
